US07989454B2
4-[3-{6-[3-Benzo[1,3]dioxol-5-yl-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-carboxy-ethyl)-phenoxy]-butyric acid
The title compound was prepared by the same method as 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid starting from 4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (120 mg, 0.163 mmol) and 1.0 N aqueous NaOH (1.63 mL) in EtOH (5.7 mL) to afford 4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-carboxy-ethyl)-phenoxy]-butyric acid (73 mg, 66%) as a white amorphous solid.

reactant | 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F | C34H39F2NO7
reactant | 4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.163 mmol, 120 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(=O)N1CC(CC1)(F)F)C1=CC2=C(OCO2)C=C1)CCC(=O)OCC)=O | C41H49F2NO9
reactant | NaOH | 1.0 N, 1.63 mL | [OH-].[Na+]
solvent | EtOH | 5.7 mL | CCO | C2H6O
product | 4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | 73 mg, 66% | O1COC2=C1C=CC(=C2)C=2C=C(OCCCCCCC=1C(=C(OCCCC(=O)O)C=CC1)CCC(=O)O)C=C(C2)C(=O)N2CC(CC2)(F)F | C37H41F2NO9
